US07902237B2
To a solution of 4-fluoro-3-nitrobenzonitrile (5.0 g, 30 mmol) in THF (15 mL, anhyd) was added a solution of ethylamine (2.0 M, 23 mL, 46 mmol) in THF. After stirring 16 h, precipitated solids were collected by filtration, triturated with a mixture of THF-hexanes (1:1, 50 mL), filtered again and dried under vacuum to give 4-ethylamino-3-nitrobenzonitrile (4.7 g, 82%) as a yellow solid. 1H-NMR (CDCl3): δ 8.51 (1H, d), 8.34 (1H, br s), 7.62 (1H, dd), 6.93 (1H, d), 3.44 (2H, m), 1.42 (3H, t).

reactant | 4-fluoro-3-nitrobenzonitrile | 30 mmol, 5.0 g | FC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H3FN2O2
reactant | ethylamine | 46 mmol, 2.0 M, 23 mL | C(C)N | C2H7N
solvent | THF | C1CCOC1 | C4H8O
product | 4-ethylamino-3-nitrobenzonitrile | 4.7 g, 82% | C(C)NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C9H9N3O2
